US03952021
3 g of α-(3,4-dimethoxyphenethylaminomethyl)-3,4-dibenzyloxybenzylalcohol hydrochloride are suspended in a mixture of 80 ml of isopropanol and 20 ml of water. One g of 10 % palladium-carbon is added to the suspension. Then, the mixture is subjected to catalytic hydrogenation in a hydrogen atmosphere at room temperature for 1 hour under atmospheric pressure. After the reaction is completed, the mixture is filtered to remove the catalyst. The filtrate is concentrated under reduced pressure, and the residue thus obtained is recrystallized from isopropanol. 2.1 g of α-(3,4-dimethoxyphenethylaminomethyl)-3,4-dihydroxybenzylalcohol hydrochloride are obtained. Yield: 90 % M.p. 98° - 109°C(decomp.)

reactant | α-(3,4-dimethoxyphenethylaminomethyl)-3,4-dibenzyloxybenzylalcohol hydrochloride | 3 g | Cl.COC=1C=C(CCNCC(C2=CC(=C(C=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)O)C=CC1OC
reactant | hydrogen | [H][H] | H2
solvent | isopropanol | 80 ml | C(C)(C)O | C3H8O
solvent | water | 20 ml | O | H2O
catalyst | palladium-carbon | [C].[Pd]
product | α-(3,4-dimethoxyphenethylaminomethyl)-3,4-dihydroxybenzylalcohol hydrochloride | 2.1 g, Yield: 90 % | Cl.COC=1C=C(CCNCC(C2=CC(=C(C=C2)O)O)O)C=CC1OC | InChI=1S/C18H23NO5.ClH/c1-23-17-6-3-12(9-18(17)24-2)7-8-19-11-16(22)13-4-5-14(20)15(21)10-13;/h3-6,9-10,16,19-22H,7-8,11H2,1-2H3;1H
